US07956064B2
Methyl-5-bromo-2-(methylthio)pyrimidine-4-carboxylate (1.0 eq, 661 mg, 2.52 mmol) was dissolved in CH2Cl2 (10 ml). meta-chloro perbenzoic acid (m-cpba, 77% pure grade, 2.5 eq, 1.42 g, 6.34 mmol) was added and the mixture was stirred at room temperature for 1 hour. To the resulting suspension was added anhydrous THF (10 ml), methylamine hydrochloride (10 eq, 1.7 g, 25.18 mmol) and DIEA (10 eq, 4.3 ml, 24.69 mmol) and the mixture stirred at room temperature overnight. The solvents were removed in vacuo prior to adding CH2Cl2 and a saturated aqueous sodium bicarbonate solution. The two phases were decanted and two further CH2Cl2 extractions were carried out. The combined extracts were dried over Na2SO4 and the solvents evaporated. Purification by flash chromatography on silica gel (20-30% ethylacetate in hexanes) provided methyl 5-bromo-2-(methylamino)pyrimidine-4-carboxylate as an off-white solid (461 mg, 75% yield). LCMS (ES): >95% pure, m/z 246 [M]+, 248 [M+2]+.

reactant | Methyl-5-bromo-2-(methylthio)pyrimidine-4-carboxylate | 2.52 mmol, 661 mg, 1.0 eq | COC(=O)C1=NC(=NC=C1Br)SC | C7H7BrN2O2S
reactant | meta-chloro perbenzoic acid | 6.34 mmol, 1.42 g, 2.5 eq | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | methylamine hydrochloride | 25.18 mmol, 1.7 g, 10 eq | Cl.CN
reactant | DIEA | 24.69 mmol, 4.3 ml, 10 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 5-bromo-2-(methylamino)pyrimidine-4-carboxylate | 461 mg, 75% yield | BrC=1C(=NC(=NC1)NC)C(=O)OC | C7H8BrN3O2
